US07220856B2
Preparation of 4-(2-amino-7-chloro-4-quinolinyl)-N-(1,2-dihydro-2-oxo-3-pyridinyl) 1-piperazinecarboxamide:
As described example 159, 7-chloro-4-(1-piperazinyl)-2-quinolinamine, 3-isocyanato-2(1H)-pyridinone, and diisopropylethyl amine, are reacted to give the title product as a white solid. LC-MS: 399 (M++1). 1H NMR (DMSO-d6) δ 7.95 (m, 2H), 7.76 (d, 1H), 7.40 (s, 1H), 7.12 (m, 1H), 7.0 (d, 1H), 6.45 (m, 2H), 6.25 (s, 1H), 6.22 (m, 1H), 3.75 (m, 4H), 3.10 (m, 4H).

reactant | 7-chloro-4-(1-piperazinyl)-2-quinolinamine | ClC1=CC=C2C(=CC(=NC2=C1)N)N1CCNCC1 | C13H15ClN4
reactant | 3-isocyanato-2(1H)-pyridinone | N(=C=O)C=1C(NC=CC1)=O | C6H4N2O2
reactant | diisopropylethyl amine | C(C)(C)N(CC)C(C)C | C8H19N
product | 4-(2-amino-7-chloro-4-quinolinyl)-N-(1,2-dihydro-2-oxo-3-pyridinyl) 1-piperazinecarboxamide | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)NC=1C(NC=CC1)=O)Cl | C19H19ClN6O2
